US07405211B2
2-(4morpholinyl)-8-phenoxy-4H-1-benzopyran-4one (TGX-134)
Condensation of the lithium enolate of N-acetyl morpholine (0.21 g, 1.6 mmol) with methyl 3-phenoxy-2-hydroxybenzoate (0.25 g, 1.0 mmol) followed by cyclodehydration with trifluoromethanesulfonic anhydride (0.60 ml, 3.6 mmol) as described above yielded TGX-134 as an off-white solid (0.090 g).

reactant | N-acetyl morpholine | 1.6 mmol, 0.21 g | C(C)(=O)N1CCOCC1 | C6H11NO2
reactant | methyl 3-phenoxy-2-hydroxybenzoate | 1.0 mmol, 0.25 g | O(C1=CC=CC=C1)C=1C(=C(C(=O)OC)C=CC1)O | C14H12O4
reactant | trifluoromethanesulfonic anhydride | 3.6 mmol, 0.60 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 2-(4morpholinyl)-8-phenoxy-4H-1-benzopyran-4one | 0.090 g | N1(CCOCC1)C=1OC2=C(C(C1)=O)C=CC=C2OC2=CC=CC=C2 | C19H17NO4
